US07465731B2
A mixture of A mixture of (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}acrylic acid (693 mg), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (264 mg), HOBt (290 mg) and EDCI (334 mg) in DMF (20 ml) was stirred at ambient temperature for 15 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (9:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (200 mg).

reactant | (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}acrylic acid | 693 mg | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=N1)C)/C=C/C(=O)O | C19H22N4O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 264 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 290 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 334 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | AcOEt-H2O | C(=O)(C)OCC.O
product | (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 200 mg | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=N1)C)/C=C/C(=O)NOC1OCCCC1 | C24H31N5O3
